US06359134B1
1-(trans-4-tert-Butoxycarbonylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinecarboxylic acid
To a solution of ethyl 1-(trans-4-tert-butoxycarbonylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinecarboxylate (740 mg) in ethanol (15 ml) was added 1 N sodium hydroxide solution (10 ml), and the solution was stirred at room temperature for 15 hours. The reaction solution was concentrated, and the residue was dissolved in water, adjusted to pH 2 with 1 N hydrochloric acid, extracted with dichloromethane. The extract was dried and concentrated to give a colorless solid of the title compound (614 mg).

reactant | ethyl 1-(trans-4-tert-butoxycarbonylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinecarboxylate | 740 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OCC | C29H38ClN3O7S
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(trans-4-tert-Butoxycarbonylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinecarboxylic acid | 614 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)O | C27H34ClN3O7S
